US07906517B2
1-{2-[(3,5-Bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-ethyl piperidine-4-carboxylate (105 mg) is dissolved in ethanol (4 ml) and thereto is added a 1N-aqueous sodium hydroxide solution (2 ml), and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-piperidine-4-carboxylic acid (81 mg). MS (m/z): 625 [M+H]+

reactant | 1-{2-[(3,5-Bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-ethyl piperidine-4-carboxylate | 105 mg | N1CCC(CC1)C(=O)OC(C)C=1C=NC(=NC1)N(CC1=C(C=CC(=C1)C(F)(F)F)F)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C29H26F10N4O2
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-fluoro-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yl}-piperidine-4-carboxylic acid | 81 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)F)C=C(C1)C(F)(F)F)(F)F | C27H22F10N4O2
